US06630578B2
To sodium dihydrobis(2-methoxyethoxy)aluminate (70% in toluene, 22.7 g, 0.078 mol), was added dropwise a solution of methyl 3,5-bis(3,5-dimethylthiobenzyloxy)benzoate (21.0 g) in tetrahydrofuran (180 ml) in a stream of nitrogen at 5-10° C. during 30 minutes. After completion of the addition, the mixture was stirred for 5 hours and then poured into 2L of diluted hydrochloric acid, followed by extraction with 1L of chloroform. The extract was evaporated to dryness, and the residue was purified by means of chromatography using chloroform as the developing solvent, giving 3,5-bis(3,5-dimethylthiobenzyloxy)benzyl alcohol. The yield was 17.5 g (85.6%).

reactant | methyl 3,5-bis(3,5-dimethylthiobenzyloxy)benzoate | 21.0 g | CSC=1C=C(COC=2C=C(C(=O)OC)C=C(C2)OCC2=CC(=CC(=C2)SC)SC)C=C(C1)SC | C26H28O4S4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 3,5-bis(3,5-dimethylthiobenzyloxy)benzyl alcohol | CSC=1C=C(COC=2C=C(CO)C=C(C2)OCC2=CC(=CC(=C2)SC)SC)C=C(C1)SC | C25H28O3S4
